US08497264B2
A vial was charged with and (S)-3-chloro-7-(2-fluoropyridin-3-yl)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine (79.05 mg, 0.199 mmol), 3,6-dihydro-2H-pyran-4-ylboronic acid (76 mg, 0.598 mmol), bis[di-tert-butyl(4-dimethylaminophenyl)phosphine]dichloropalladium(II) (7.05 mg, 9.96 μmol), and potassium phosphate (127 mg, 0.598 mmol). Dioxane (747 μL) and water (249 μL) were added, and the vial was sealed and heated in a Biotage Initiator microwave reactor for 30 min at 110° C. The mixture was extracted with EtOAc (3×), and the combined organic extracts were concentrated. The residue was purified by chromatography on silica gel (0-10% MeOH/DCM) to give (S)-3-(3,6-dihydro-2H-pyran-4-yl)-7-(2-fluoropyridin-3-yl)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine (82.18 mg) as a yellow solid.

reactant | (S)-3-chloro-7-(2-fluoropyridin-3-yl)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.199 mmol, 79.05 mg | ClC1=CC2=C(C=N1)OC1=CC=C(C=C1[C@@]21COCC(=N1)N)C=1C(=NC=CC1)F | C20H14ClFN4O2
reactant | 3,6-dihydro-2H-pyran-4-ylboronic acid | 0.598 mmol, 76 mg | O1CCC(=CC1)B(O)O | C5H9BO3
reactant | potassium phosphate | 0.598 mmol, 127 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Dioxane | 747 μL | O1CCOCC1 | C4H8O2
solvent | water | 249 μL | O | H2O
product | (S)-3-(3,6-dihydro-2H-pyran-4-yl)-7-(2-fluoropyridin-3-yl)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 82.18 mg | O1CCC(=CC1)C1=CC2=C(C=N1)OC1=CC=C(C=C1[C@@]21COCC(=N1)N)C=1C(=NC=CC1)F | C25H21FN4O3
